US09340546B2
In a 100 mL sealed reaction vessel/bomb, 3-chloro-5-fluoro-4-iodo-pyridine (5600 mg, 21.75 mmol) was taken up in NMP (12 mL). To the resulting clear brown solution was added DIPEA (3.373 g, 4.546 mL, 26.10 mmol) followed by piperazine (2.810 g, 32.62 mmol). The vessel was sealed and heated thermally at 120° C. for 18 hrs. The mixture was allowed to cool to RT and was concentrated in vacuo to afford a brown gum which was purified by chromatography on silica, eluting with a gradient of DCM-DCM:MeOH:NH3(90: 10:1) 100-0 to 0:100. Fractions containing clean product were collected and concentrated in vacuo to afford 1-(3-chloro-5-fluoropyridin-4-yl)piperazine as a cream solid. (3.52 g, 75%). MS (ES+) 216.0.

reactant | 3-chloro-5-fluoro-4-iodo-pyridine | 21.75 mmol, 5600 mg | ClC=1C=NC=C(C1I)F | C5H2ClFIN
reactant | DIPEA | 26.10 mmol, 4.546 mL, 3.373 g | CCN(C(C)C)C(C)C | C8H19N
reactant | piperazine | 32.62 mmol, 2.810 g | N1CCNCC1 | C4H10N2
solvent | NMP | 12 mL | CN1CCCC1=O | C5H9NO
product | 1-(3-chloro-5-fluoropyridin-4-yl)piperazine | ClC=1C=NC=C(C1N1CCNCC1)F | C9H11ClFN3
